US03992434
One mole of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in benzene was reactedwith two moles of diethanolamine in benzene to produce N,N-bis(3',5'-di-t-butyl-4'-hydroxybenzoyloxyethyl) 3,5-di-t-butyl-4-hydroxybenzamide; melting point 200°-202° C. When tested by the procedure of Example 2, the sample containing this compound lasted 1,300 hours, about 2.4 times as long as the control.

reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | One mole | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | diethanolamine | two moles | N(CCO)CCO | C4H11NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-bis(3',5'-di-t-butyl-4'-hydroxybenzoyloxyethyl) 3,5-di-t-butyl-4-hydroxybenzamide | C(C)(C)(C)C=1C=C(C(=O)OCCN(C(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)CCOC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C49H71NO8
